US04812164
using 2-chloro-1-(4-chloro-2-fluoro-5-isopropoxyphenyl)-4-pentafluoroethyl-6(1H)-pyrimidinone and sodium isopropylate in isopropanol there is obtained 1-(4-chloro-2-fluoro-5-isopropoxyphenyl)-2-isopropoxy-4-pentafluoroethyl-6(1H)-pyrimidinone, 1H-NMR (CDCl3, 400 MHz): 7.30 ppm (d,1H), 6.81 ppm (d,1H), 6.62 ppm (s,1H), 5.33 ppm (m,1H), 4.47 ppm (m,1H), 1.38 ppm (d,3H), 1.37 ppm (d,3H), 1.28 ppm (d,3H), 1.27 ppm (d,3H);

reactant | 2-chloro-1-(4-chloro-2-fluoro-5-isopropoxyphenyl)-4-pentafluoroethyl-6(1H)-pyrimidinone | ClC=1N(C(C=C(N1)C(C(F)(F)F)(F)F)=O)C1=C(C=C(C(=C1)OC(C)C)Cl)F | C15H10Cl2F6N2O2
reactant | sodium | [Na] | Na
solvent | isopropanol | C(C)(C)O | C3H8O
product | 1-(4-chloro-2-fluoro-5-isopropoxyphenyl)-2-isopropoxy-4-pentafluoroethyl-6(1H)-pyrimidinone | ClC1=CC(=C(C=C1OC(C)C)N1C(=NC(=CC1=O)C(C(F)(F)F)(F)F)OC(C)C)F | C18H17ClF6N2O3
